US09290451B2
5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(1-(5-methyl-1,2,4-oxadiazol-3-yl)cyclobutyl)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 1-(5-methyl-1,2,4-oxadiazol-3-yl)-cyclobutanamine hydrochloride (1:1) (CAN 1170897-28-5) as starting materials, LC-MS (UV peak area/ESI) 97.8%, 369.1914 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 1-(5-methyl-1,2,4-oxadiazol-3-yl)-cyclobutanamine hydrochloride | Cl.CC1=NC(=NO1)C1(CCC1)N
product | 5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(1-(5-methyl-1,2,4-oxadiazol-3-yl)cyclobutyl)picolinamide | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)NC1(CCC1)C1=NOC(=N1)C | C20H24N4O3
